US07851473B2
(1) 4-Phenyl-1,3-oxazol-2(3H)-one
To a solution of 2-hydroxyacetophenone (10.0 g, 73.4 mmol) and potassium cyanate (11.9 g, 147 mmol) in isopropanol (50 ml) was added dropwise acetic acid (10.1 ml, 176 mmol) at 50° C., and the mixture was stirred at 50° C. for 5 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:2) to give 4.83 g (40.9%) of the desired product as a solid.

reactant | 2-hydroxyacetophenone | 73.4 mmol, 10.0 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | potassium cyanate | 147 mmol, 11.9 g | [O-]C#N.[K+]
reactant | acetic acid | 176 mmol, 10.1 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-Phenyl-1,3-oxazol-2(3H)-one | 4.83 g, 40.9% | C1(=CC=CC=C1)C=1NC(OC1)=O | C9H7NO2
